US04728647
A solution of acetyl chloride (0.55 cc) in methylene chloride (5 cc) is added in the course of 10 minutes to a stirred solution of 4-[(6-amino-2-phenyl-4-quinolyl)oxyacetyl]morpholine (2.55 g), prepared according to Example 39, and triethylamine (1.2 cc) in methylene chloride (25 cc). The mixture is stirred for 1 hour at room temperature (approximately 20° C.) and the solvent evaporated off under reduced pressure. The residue is stirred for 10 minutes in an ethyl acetate/water (5:2 by volume) mixture, filtered off, dissolved in a toluene/acetic acid (50:50 by volume) mixture and precipitated with ethyl ether. After filtration and drying, 4-[(6-acetylamino-2-phenyl-4-quinolyl)oxyacetyl]morpholine (2 g), m.p. 261° C., is isolated.

reactant | acetyl chloride | 0.55 cc | C(C)(=O)Cl | C2H3ClO
reactant | 4-[(6-amino-2-phenyl-4-quinolyl)oxyacetyl]morpholine | 2.55 g | NC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)OCC(=O)N1CCOCC1 | C21H21N3O3
reactant | triethylamine | 1.2 cc | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 cc | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 cc | C(Cl)Cl | CH2Cl2
product | 4-[(6-acetylamino-2-phenyl-4-quinolyl)oxyacetyl]morpholine | 2 g | C(C)(=O)NC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)OCC(=O)N1CCOCC1 | C23H23N3O4
